US07375115B2
Methyl (1-vinylcyclobutyl)acetate
To an ice-cooled solution of diisopropylamine (1.07 mL) in THF (10 mL) was added 1.57 M n-butyllithium/hexane (4.47 mL) dropwise over 5 minutes. After stirring under ice cooling for additional 30 minutes, the reaction solution was cooled to −78° C. and a solution of 2-cyclobutyridene ethyl acetate (0.89 g) in tetrahydrofuran (0.8 mL) was added thereto dropwise over 5 minutes. After stirring the reaction solution at that temperature for 1 hour, chlorotrimethylsilane (0.97 mL) was added dropwise over 5 minutes. The reaction solution was stirred at room temperature for 1 hour, and then, heated under reflux for 4.5 hours. The reaction solution was ice-cooled, to which methanol (2 mL) and a 3N aqueous sodium hydroxide solution (5 ml) were added. The solution was stirred for 30 minutes. Then, conc. hydrochloric acid (2 mL) was added to the solution and it was stirred for additional 30 minutes. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue (1.77 g) was dissolved in N,N-dimethylformamide (10 mL), to which potassium carbonate (2.82 g) and methyl iodide (0.62 mL) were added. The solution was stirred at room temperature for 1 hour. The reaction solution was filtered with Celite and insolubles on Celite were washed with ethyl acetate. The filtrate was combined with the wash, and it washed in turn with 1N hydrochloric acid and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by chromatography [silica gel, hexane-ethyl acetate (20:1)] to give the title compound (0.67 g).

reactant | diisopropylamine | 1.07 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.57 M, 4.47 mL | C(CCC)[Li].CCCCCC
reactant | chlorotrimethylsilane | 0.97 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydroxide | 3N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 0.89 g | C(C)(=O)OCC | C4H8O2
product | Methyl (1-vinylcyclobutyl)acetate | 0.67 g | C(=C)C1(CCC1)CC(=O)OC | C9H14O2
